US04771051
3-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)-4,5-dihydro-4-methyl-5-oxo-6-chloro-imidazo(1,5-a)quinazoline.
M.p. 230°-240° C. (decomp.) by reaction between 3-methyl-5-chloro-1,2,3,4-tetrahydro-2,4-dioxo-quinazoline and 5-cyclopropyl-3-isocyanomethyl-1,2,4-oxadiazole.

reactant | 3-methyl-5-chloro-1,2,3,4-tetrahydro-2,4-dioxo-quinazoline | CN1C(NC2=CC=CC(=C2C1=O)Cl)=O | C9H7ClN2O2
reactant | 5-cyclopropyl-3-isocyanomethyl-1,2,4-oxadiazole | C1(CC1)C1=NC(=NO1)C[N+]#[C-] | C7H7N3O
product | 3-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)-4,5-dihydro-4-methyl-5-oxo-6-chloro-imidazo(1,5-a)quinazoline | C1(CC1)C1=NC(=NO1)C=1N=CN2C1N(C(C1=C(C=CC=C21)Cl)=O)C | C16H12ClN5O2
